2181-10-20 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bolused 2L because SVO2 59
   - Started on norepi and clinically improved, less lethargic and UOP
   increased.
   - BCx growing GPCs in clusters [**5-5**] and Ucx growing >100k Ecoli
   - PM lytes showed worsening renal failure
   - Lactate remained low
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-19**] 08:19 AM
   Vancomycin - [**2181-10-19**] 10:12 AM
   Cefipime - [**2181-10-20**] 06:01 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-20**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 35.9
C (96.7
   HR: 75 (60 - 81) bpm
   BP: 134/52(71) {102/34(53) - 145/87(128)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
    CVP: 14 (13 - 20)mmHg
   CO/CI (Fick): (105 L/min) / (57.6 L/min/m2)
   Mixed Venous O2% Sat: 48 - 91
   Total In:
                                                                  3,864 mL
                                                                    268 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  2,264 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    365 mL
   Urine:
                                                                    490 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,324 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   GEN: polish speaking, NAD
   HEENT: dry mouth
   CV: rrr, systolic m
   Lungs: wheezes in large airways, some crackles at bases
   ABD: soft, mild distention, loug bowel sounds
   Ext: 1+ pitting edema in LE and UEs
   Labs / Radiology
   159 K/uL
   8.3 g/dL
   149 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.9 mEq/L
   54 mg/dL
   105 mEq/L
   134 mEq/L
   26.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
   WBC
   13.8
   13.0
   Hct
   26.3
   27.2
   26.3
   26.2
   Plt
   138
   159
   Cr
   2.5
   2.7
   2.5
   TropT
   0.07
   Glucose
   165
   179
   149
   Other labs: PT / PTT / INR:14.9/31.9/1.3, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
[**2181-10-18**] 8:20 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2181-10-19**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **],MD #[**Numeric Identifier 10304**] [**2181-10-19**] 12:20PM.
   Anaerobic Bottle Gram Stain (Final [**2181-10-19**]):
         GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
[**2181-10-18**] 8:35 pm URINE     Site: NOT SPECIFIED
                            **FINAL REPORT [**2181-10-19**]**
   URINE CULTURE (Final [**2181-10-19**]):
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
            SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 10305**]
   Assessment and Plan
   82 y.o. F with CAD s/p anterior apical MI, chronic systolic and
   diastolic CHF ([**2181-5-23**] EF 50%), s/p PPM and ICD, asthma, recent GI
   bleed, who presents with fever, leukocytosis, and grossly blood stool
   in rectal vault.
   # Septic Shock: Meets [**3-7**] SIRS criteria with possible sources of
   infection, including pneumonia given findings on CXR and CT and
   phsyical exam findings as well as + UA.  Had low UP overnight. Blood cx
   with GPC and urine with E. coli. Was on pressors, now weaning. UO
   improved with fluids and levophed.
   - treat bacteremia and HAP with vanco/cefepime
   - can d/c cipro, no evidence of pseudomonas
   - treat UTI with above abx as would also cover pathogens
   - f/u urine culture, blood culture sensitivity
   - sputum culture pending
   - IVFs boluses  or levo bolus for UO < 35
   - monitor CVP (goal [**9-12**])
   - echo pending
   - daily survelliece blood cx
   - wean levo, MAP goal 65
   .
   # Anemia from GI bleeding: Hct 28 and stable from recent
   hospitalization. However, grossly bloody stool in rectal vault on
   admission.
   - f/u GI recs
   - active T&S
   - Hct daily
   - transfuse to keep Hct > 25
   - IVF boluses
   - appreciate surgery recs
   .
   # UTI: + UA, E. coli in urine
   - treat as noted above with abx
   - f/u urine culture
   .
   # ARF: elevated to 2.3 from baseline around 1.5, prerenal by lytes, no
   eos
   - IVF boluses or levo if UO<35ml/hr
   - avoid nephrotoxins
   - trend Cr, renally dose meds
   .
   # CAD: continue atorvastatin, hold carvedilol in setting of hypotension
   .
   # CHF: systolic and diastlic dysfunction in recent echo
   - hold lasix while giving fluid hydration
   - hold carvedilol and isosorbide mononitrate given hypotension
   .
   # Afib:
   - continue amiodarone
   - monitor on telemetry
   .
   # HTN:
   - holding anti-hypertensives given hypotension
   .
   # PPX: home PPI, pneumoboots, bowel regimen, hep sc
   # ACCESS: PIV
   # CODE: DNR/DNI (confirmed with HCP), okay with pressors
   # CONTACT: Daughter in law [**Doctor First Name 1160**] [**Telephone/Fax (1) 10283**]
   # DISPO: ICU
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   18 Gauge - [**2181-10-19**] 05:19 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   Communication:  Comments: daughter and patient
   Code status: Full code
   Disposition: ICU for now

2181-10-20 09:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82yo F with PMH CA, systolic CHF, asthma and hypertension who was
   recently admitted for w/u of GIB and now readmitted with bacteremia,
   UTI and shock; improved with pressors, fluids and abx.
   24 Hour Events:
 Levophed titrated down overnight
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-19**] 10:12 AM
   Cefipime - [**2181-10-20**] 06:01 AM
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2181-10-20**] 08:15 AM
   Other medications:
   Changes to medical and family history:  None since admission.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No new complaints.
   Flowsheet Data as of  [**2181-10-20**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36
C (96.8
   HR: 75 (60 - 81) bpm
   BP: 129/71(84) {102/34(53) - 145/87(128)} mmHg
   RR: 28 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
   CVP: 18 (10 - 20)mmHg
   CO/CI (Fick): (105 L/min) / (57.6 L/min/m2)
   Mixed Venous O2% Sat: 48 - 91
   Total In:
                                                                  3,864 mL
                                                                    483 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  2,264 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    515 mL
   Urine:
                                                                    490 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,324 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Gen
l: awake, alert, pleasant, Polish-speaking
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), III/VI
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : at bases bilateral,
   Wheezes : R >L), expiratory squeak in RUL
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, b/l UE 2+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   159 K/uL
   149 mg/dL
   2.5 mg/dL
   19 mEq/L
   4.9 mEq/L
   54 mg/dL
   105 mEq/L
   134 mEq/L
   26.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
   WBC
   13.8
   13.0
   Hct
   26.3
   27.2
   26.3
   26.2
   Plt
   138
   159
   Cr
   2.5
   2.7
   2.5
   TropT
   0.07
   Glucose
   165
   179
   149
   Other labs: PT / PTT / INR:14.9/31.9/1.3, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 Septic Shock.
   - weaning levophed per MAP >/= 65
   - high grade bacteremia, presumably S. aureus, awaiting sensitivies
   - has murmur, documented previously, awaiting echo
   - Vanc level 11, goal 15-20, increased to q24h dosing
   - awaiting E. coli sensitivities from urine
   - d'c ciprofloxacin
   - daily surveillance cultures until negative
   - total body volume up but tolerating well from respiratory standpoint,
   will follow urine output off levophed
Hypoxemia: likely pneumonia v. ARDs, stable on nasal cannula
   - likely volume overload is component but given sepsis will hold on
   diuresis
 Renal Failure: likely pre-renal +/-  ATN in the setting of septic
   shokc
   - urine lytes pre-renal appearing
   - renally dosing her vancomycin, f/u repeat level
   - Cr now stable with improved hemodynamics
   - goal urine output >/=  35cc/hr
 Anemia: hematocrit stable, no obvious source of bleeding
 Pneumonia: CXR with increased pleural effusion but otherwise stable
   to improved
   - treating as HAP with vancomycin/cefepime
   - unable to make sputum
   ICU Care
   Nutrition:
   Comments: low salt diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   18 Gauge - [**2181-10-19**] 05:19 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 20 minutes

2181-10-21 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2181-10-21**] 05:41 AM
   - blood cx identified as MRSA
   - weaned off levophed
   - started nebs
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Vancomycin - [**2181-10-20**] 10:00 AM
   Cefipime - [**2181-10-21**] 05:42 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-10-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-20**] 10:00 AM
   Morphine Sulfate - [**2181-10-21**] 05:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-21**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 75 (75 - 79) bpm
   BP: 126/50(68) {110/45(60) - 136/71(84)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
    CVP: 20 (12 - 20)mmHg
   Total In:
                                                                  1,143 mL
                                                                    250 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    873 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    380 mL
   Urine:
                                                                  1,125 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   GEN: polish speaking, NAD
   HEENT: dry mouth
   CV: rrr, systolic m
   Lungs: wheezes in large airways, some crackles at bases
   ABD: soft, mild distention, loug bowel sounds
   Ext: 1+ pitting edema in LE and UEs
   Labs / Radiology
   133 K/uL
   7.7 g/dL
   121 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.6 mEq/L
   47 mg/dL
   108 mEq/L
   137 mEq/L
   24.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
   WBC
   13.8
   13.0
   7.9
   7.9
   Hct
   26.3
   27.2
   26.3
   26.2
   24.0
   24.2
   Plt
   138
   159
   132
   133
   Cr
   2.5
   2.7
   2.5
   2.0
   TropT
   0.07
   Glucose
   165
   179
   149
   121
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.0 mg/dL
   [**10-18**] UCx:
[**2181-10-18**] 8:35 pm URINE     Site: NOT SPECIFIED
                            **FINAL REPORT [**2181-10-19**]**
   URINE CULTURE (Final [**2181-10-19**]):
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
         SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 10305**].
   [**10-18**] BCx
[**2181-10-18**] 8:20 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      STAPH AUREUS COAG +.
         SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 10323**] [**2181-10-18**].
         Consultations with ID are recommended for all blood cultures
         positive for Staphylococcus aureus and [**Female First Name (un) **] species.
   Aerobic Bottle Gram Stain (Final [**2181-10-19**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **],MD #[**Numeric Identifier 10304**] [**2181-10-19**] 12:20PM.
   Anaerobic Bottle Gram Stain (Final [**2181-10-19**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
[**2181-10-18**] 8:55 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      STAPH AUREUS COAG +.    PRELIMINARY SENSITIVITY.
         These preliminary susceptibility results are offered to help guide
         treatment; interpret with caution as final susceptibilities may
         change. Check for final susceptibility results in 24 hours.
         Oxacillin RESISTANT Staphylococci MUST be reported as also
         RESISTANT to other penicillins, cephalosporins, carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations.
         Rifampin should not be used alone for therapy.
         Consultations with ID are recommended for all blood cultures
         positive for Staphylococcus aureus and [**Female First Name (un) **] species.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
OXACILLIN-------------       R
   Aerobic Bottle Gram Stain (Final [**2181-10-19**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **],MD #[**Numeric Identifier **] [**2181-10-19**] 08:50AM.
   Anaerobic Bottle Gram Stain (Final [**2181-10-19**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
   [**10-19**] BCx: pending
   [**10-20**] BCx: pending
   [**10-21**] BCx: pending
   [**10-20**] CXR:
   FINDINGS: Indwelling devices are unchanged in position. Cardiac
   silhouette
   remains enlarged, but pulmonary vascular congestion has resolved.
   Persistent
   moderate right and small left pleural effusions with adjacent basilar
   lung
   opacities, which may reflect atelectasis or infectious consolidation.
   Assessment and Plan
   82 y.o. F with CAD s/p anterior apical MI, chronic systolic and
   diastolic CHF ([**2181-5-23**] EF 50%), s/p PPM and ICD, asthma, recent GI
   bleed, who presents with fever, leukocytosis, and grossly blood stool
   in rectal vault.
   # Septic Shock: Meets [**3-7**] SIRS criteria with possible sources of
   infection, including pneumonia given findings on CXR and CT and
   phsyical exam findings as well as + UA.  Blood cx with GPC and urine
   with E. coli. Was on pressors, now off since yesterday. UO improved
   with fluids and levophed.
   - treat bacteremia and HAP with vanco/cefepime (d/c
ed cipro as no
   pseudomonas)
   - treat UTI with above abx as would also cover pathogens
   - f/u urine culture, blood culture sensitivity
   - sputum culture still pending
   - IVFs boluses or levo bolus for UO < 35
   - monitor CVP (goal [**9-12**])
   - echo pending (likely tomorrow)
   - daily survelliece blood cx for bacteremia workup
   - ID consult for high grade MRSA bacteremia
   .
   # Anemia from GI bleeding: Hct 28 and stable from recent
   hospitalization. However, grossly bloody stool in rectal vault on
   admission.
   - f/u GI recs
   - active T&S
   - daily Hct
   - transfuse to keep Hct > 25
 1 pRBC today
   - IVF boluses
   - appreciate surgery recs
   .
   # UTI: + UA, E. coli in urine
   - treat as noted above with abx
   - f/u urine culture
   .
   # ARF: Cr 2.0 today from baseline around 1.5, prerenal by lytes, no eos
   - IVF boluses or levo if UO<35ml/hr
   - avoid nephrotoxins
   - trend Cr, renally dose meds
   .
   # CAD: continue atorvastatin
   - if BP remains stable in PM, will restart carvedilol
   .
   # CHF: systolic and diastlic dysfunction in recent echo
   - continue to hold lasix while giving fluid hydration
   - hold isosorbide mononitrate given hypotension
   - restart carvedilol in PM if still stable
   .
   # Afib:
   - continue amiodarone
   - monitor on telemetry
   .
   # HTN:
   - restart carvedilol in PM if remains stable
   .
   # PPX: home PPI, pneumoboots, bowel regimen, hep sc
   # ACCESS: PIV, CVL
   # CODE: DNR/DNI (confirmed with HCP), okay with pressors
   # CONTACT: Daughter in law [**Doctor First Name 1160**] [**Telephone/Fax (1) 10283**]
   # DISPO: ICU
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   18 Gauge - [**2181-10-19**] 05:19 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI
   Communication:  Comments: daughter and patient
   Code status: Full code
   Disposition: ICU for now

2181-10-21 11:49:00 Physician Attending Progress Note
Chief Complaint: MRSA sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Surveillance blood culture drawn. Staph ID as MRSA. Weaned off Levo at
   12pm.
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Cefipime - [**2181-10-21**] 05:42 AM
   Vancomycin - [**2181-10-21**] 08:11 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-10-21**] 05:57 AM
   Famotidine (Pepcid) - [**2181-10-21**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-21**] 08:01 AM
   Other medications:
   colace, calcitriol, zocor, amiodarone, levophed, HISS, albuterol,
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-21**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.4
   HR: 75 (75 - 79) bpm
   BP: 141/61(82) {110/45(60) - 141/61(82)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
   CVP: 21 (9 - 21)mmHg
   Total In:
                                                                  1,143 mL
                                                                    505 mL
   PO:
                                                                    270 mL
                                                                    170 mL
   TF:
   IVF:
                                                                    873 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    535 mL
   Urine:
                                                                  1,125 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, anasarca
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   133 K/uL
   141 mg/dL
   1.9 mg/dL
   20 mEq/L
   4.6 mEq/L
   45 mg/dL
   107 mEq/L
   136 mEq/L
   24.2 %
   7.9 K/uL
         [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
   WBC
   13.8
   13.0
   7.9
   7.9
   Hct
   26.3
   27.2
   26.3
   26.2
   24.0
   24.2
   Plt
   138
   159
   132
   133
   Cr
   2.5
   2.7
   2.5
   2.0
   1.9
   TropT
   0.07
   Glucose
   165
   179
   149
   121
   141
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR pulmonary vascular congestion now resolved.
   Microbiology: E.coli >100,000.
   Staph is MRSA
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Will start diuresis with lasix goal -500cc-1L as BP allows.
 SEPSIS WITHOUT ORGAN DYSFUNCTION;
   High grade MRSA bacteremia, likely From lung as source, TTE pending for
   tomorrow. Continue daily surveillance cultures. Checking vanco trough
   target 15-20. Weaned off pressors, hemodynamics much improved.
 URINARY TRACT INFECTION (UTI):
   E.coli will narrow gram negative coverage accordingly  once senses
   return.
 ARF: creatinine now back to baseline.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   18 Gauge - [**2181-10-19**] 05:19 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU for today, just weaned off pressors
   Total time spent: 35 minutes

2181-10-22 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery signed off
   - ID consulted: recommend TTE, agree with vanc/cefepime, check vanc
   trough in AM (ordered)
   - episode of shortness of breath and audible wheeze which improved with
   diuresis
   - urine culture from [**10-18**] sensitivities are same as [**10-11**] UCx (lab does
   not repeat)
   - IV lasix 40 x 2 with good uop
   - 8 pm lytes - Cr elevated to 2.1 after lasix x 2
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Vancomycin - [**2181-10-21**] 08:11 AM
   Cefipime - [**2181-10-22**] 05:47 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-10-21**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-21**] 09:00 PM
   Furosemide (Lasix) - [**2181-10-21**] 09:00 PM
   Morphine Sulfate - [**2181-10-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-22**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 75 (75 - 79) bpm
   BP: 117/48(65) {110/43(61) - 143/73(82)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
    CVP: 10 (8 - 22)mmHg
   Total In:
                                                                    860 mL
                                                                    129 mL
   PO:
                                                                    370 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                  1,000 mL
   Urine:
                                                                  2,205 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,345 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   7.7 g/dL
   134 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   44 mg/dL
   105 mEq/L
   136 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
                             [**2181-10-21**]  01:58 PM
                             [**2181-10-21**]  09:34 PM
                             [**2181-10-22**]  05:06 AM
   WBC
   13.8
   13.0
   7.9
   7.9
   7.4
   Hct
   26.3
   27.2
   26.3
   26.2
   24.0
   24.2
   24.4
   Plt
   138
   159
   132
   133
   130
   Cr
   2.5
   2.7
   2.5
   2.0
   1.9
   1.9
   2.1
   2.0
   TropT
   0.07
   Glucose
   165
   179
   149
   121
   141
   137
   195
   134
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   82 y.o. F with CAD s/p anterior apical MI, chronic systolic and
   diastolic CHF ([**2181-5-23**] EF 50%), s/p PPM and ICD, asthma, recent GI
   bleed, who presents with fever, leukocytosis, and grossly blood stool
   in rectal vault.
   # Septic Shock: Meets [**3-7**] SIRS criteria with possible sources of
   infection, including pneumonia given findings on CXR and CT and
   phsyical exam findings as well as + UA.  Blood cx with MRSA and urine
   with E. coli. Was on pressors, now off since yesterday. UO improved
   with fluids and levophed.
   - treat bacteremia and HAP with vanco/cefepime (d/c
ed cipro as no
   pseudomonas)
   - treat UTI with above abx as would also cover pathogens
   - f/u urine culture, blood culture sensitivity
   - sputum culture still pending
   - hold on further IVF
   - monitor CVP (goal [**9-12**])
   - echo pending (likely done tomorrow)
   - daily survelliece blood cx for bacteremia workup
   - ID consult for high grade MRSA bacteremia
   - vanco target 15-20, s
   # Anemia from GI bleeding: Hct now 24, slightly done but
   hemodynamically stable. Had grossly bloody stool in rectal vault on
   admission.
   - f/u GI recs
   - active T&S
   - daily Hct
   - transfuse to keep Hct > 25
 1 pRBC today
   - IVF boluses
   - appreciate surgery recs
   # UTI: + UA, E. coli in urine
   - treat as noted above with abx
   - f/u urine culture
   # ARF: Cr 2.0 today from baseline around 1.5, prerenal by lytes, no eos
   - avoid nephrotoxins
   - trend Cr, renally dose meds
   # CAD: continue atorvastatin
   - if BP elevated, will consider restarting carvedilol
   # CHF: systolic and diastlic dysfunction in recent echo
   - Lasix with goal negative 1-2 liters
   - hold isosorbide mononitrate given hypotension
   - hold carvedilol
   # Afib:
   - continue amiodarone
   - monitor on telemetry
   # HTN:
   - restart carvedilol in PM if remains stable
   # PPX: home PPI, pneumoboots, bowel regimen, hep sc
   # ACCESS: PIV, CVL
   # CODE: DNR/DNI (confirmed with HCP), okay with pressors
   # CONTACT: Daughter in law [**Doctor First Name 1160**] [**Telephone/Fax (1) 10283**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-10-22 11:49:00 Physician Attending Progress Note
Chief Complaint: MRSA bacteremia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night, diuresed.
   History obtained from Patient, Family / Friend
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Cefipime - [**2181-10-22**] 05:47 AM
   Vancomycin - [**2181-10-22**] 08:34 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-21**] 09:00 PM
   Morphine Sulfate - [**2181-10-22**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-22**] 08:34 AM
   Other medications:
   famotidine, calcitriol, amiodarone, heparin, vancomycin, albuterol,
   ipratropium, morphine prn pain. lasix 40 iv x2.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-22**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 75 (75 - 83) bpm
   BP: 125/50(69) {110/43(61) - 143/73(81)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 75 kg (admission): 75 kg
   Height: 65 Inch
   CVP: 9 (8 - 21)mmHg
   Total In:
                                                                    860 mL
                                                                    365 mL
   PO:
                                                                    370 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                  1,140 mL
   Urine:
                                                                  2,205 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,345 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, UE and LE
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   130 K/uL
   134 mg/dL
   2.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   44 mg/dL
   105 mEq/L
   136 mEq/L
   24.4 %
   7.4 K/uL
        [image002.jpg]
                             [**2181-10-19**]  05:20 AM
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
                             [**2181-10-21**]  01:58 PM
                             [**2181-10-21**]  09:34 PM
                             [**2181-10-22**]  05:06 AM
   WBC
   13.8
   13.0
   7.9
   7.9
   7.4
   Hct
   26.3
   27.2
   26.3
   26.2
   24.0
   24.2
   24.4
   Plt
   138
   159
   132
   133
   130
   Cr
   2.5
   2.7
   2.5
   2.0
   1.9
   1.9
   2.1
   2.0
   TropT
   0.07
   Glucose
   165
   179
   149
   121
   141
   137
   195
   134
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Microbiology: No new culture data
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Pulmonary edema in context of resolving sepsis. Continue gentle
   diuresis. 40 iv lasix
 SEPSIS WITHOUT ORGAN DYSFUNCTION:
   MRSA bacteremia + pneumonia: cefepime x 8d, vanco x at least two weeks,
   TTE pending, will obtain ultrasound of pacer pocket. Will keep central
   line in for now, placed for bactermia.
CAD/CHF: resume carvedilol [**Hospital1 **]
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   22 Gauge - [**2181-10-19**] 05:19 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU to floor later this afternoon if BP stable with
   diuresis
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2181-10-22**] 15:10 ------

2181-10-23 07:54:00 Physician Resident Progress Note
24 Hour Events:
   -echo without vegetations
   -u/s pacer pocket without infection
   -son updated
   -got 40mg Iv lasix, reached goal 1.5L neg
   -restarted coreg
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-20**] 08:00 AM
   Vancomycin - [**2181-10-22**] 08:34 AM
   Cefipime - [**2181-10-23**] 06:03 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-10-22**] 05:39 PM
   Furosemide (Lasix) - [**2181-10-22**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-22**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-23**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 77 (75 - 83) bpm
   BP: 130/50(70) {110/44(62) - 154/70(85)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 73.9 kg (admission): 75 kg
   Height: 65 Inch
    CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  1,171 mL
                                                                    280 mL
   PO:
                                                                    720 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    451 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    640 mL
   Urine:
                                                                  2,695 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   7.6 g/dL
   136 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   41 mg/dL
   106 mEq/L
   139 mEq/L
   24.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
                             [**2181-10-21**]  01:58 PM
                             [**2181-10-21**]  09:34 PM
                             [**2181-10-22**]  05:06 AM
                             [**2181-10-22**]  04:30 PM
                             [**2181-10-23**]  04:36 AM
   WBC
   13.0
   7.9
   7.9
   7.4
   7.8
   Hct
   27.2
   26.3
   26.2
   24.0
   24.2
   24.4
   24.3
   Plt
   159
   132
   133
   130
   149
   Cr
   2.7
   2.5
   2.0
   1.9
   1.9
   2.1
   2.0
   1.8
   1.7
   Glucose
   179
   149
   121
   141
   137
   195
   134
   193
   136
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Echo: EF dropped to 40%,
   The left atrium is moderately dilated. Left ventricular wall
   thicknesses and cavity size are normal. There is mild regional left
   ventricular systolic dysfunction with hypokinesis of the distal
   inferior wall and distal half of the anterior septum and anterior wall
   and apex. The remaining segments contract normally (LVEF = 40 %). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. Mild (1+) mitral
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   mitral regurgitation may be significantly UNDERestimated.] Moderate
   [2+] tricuspid regurgitation is seen. There is moderate pulmonary
   artery systolic hypertension. There is no pericardial effusion.
   IMPRESSION: Regional left ventricular systolic dysfunction c/w
   multivessel CAD. Moderate tricuspid regurgitation. Pulmonary artery
   systolic hypertension. Mild mitral regurgitation. No discrete
   vegetation identified (does not exclude). Compared with the prior study
   (images reviewed) of [**2181-5-23**], the distal inferior wall is now
   hypokinetic (may be related to image quality). The severity of mitral
   regurgitation and tricuspid regurgitation are now increased.
   Assessment and Plan
   82 y.o. F with CAD s/p anterior apical MI, chronic systolic and
   diastolic CHF ([**2181-5-23**] EF 50%), s/p PPM and ICD, asthma, recent GI
   bleed, who presents with fever, leukocytosis, and grossly blood stool
   in rectal vault
   # Delirium: [**Month (only) 60**] be secondary to ICU vs underlying infection vs
   constipation vs medication vs pain
   - treat infection as below
   - frequent reorientation
   - aggressive bowel regimen
   - no new meds in last 24 hours
 but will reassess
   - hold off on aggressive diuresis as possible contribution to lasix
   restart home dose lasix today (20 IV lasix = 40 po lasix)
   - d/c foley in near future to minimize tubes
   # Septic Shock: Meets [**3-7**] SIRS criteria with possible sources of
   infection, including pneumonia given findings on CXR and CT and
   phsyical exam findings as well as + UA.  Blood cx with MRSA and urine
   with E. coli. Was on pressors, now off since yesterday. UO improved
   with fluids and levophed.
   - Given likely MRSA pneumonia leading to MRSA bacteremia, will dose at
   least 2 weeks of vancomycin (vanco target 15-20) and 8 days of
   cefepime.
   - treat UTI with above abx as would also cover pathogens
   - f/u ID recs
   - pull CVL and culture tip
   - ID would like TEE today; however given goals of care, likely would
   need intubation, will address with family but likely empiric treatment
   for endocarditis.
   # Anemia from GI bleeding: Hct now 24, slightly done but
   hemodynamically stable. Had grossly bloody stool in rectal vault on
   admission.
   - follow HCT
   # UTI: + UA, E. coli in urine
   - treat as noted above with abx
   # ARF: Cr 2.0 today from baseline around 1.5, prerenal by lytes, no eos
   - avoid nephrotoxins
   - trend Cr, renally dose meds
   # CAD: continue atorvastatin
   # CHF: systolic and diastlic dysfunction in recent echo
   - increase coreg today
   # Afib:
   - continue amiodarone
   - monitor on telemetry
   # HTN:
   - increase coreg to home dose
   # PPX: home PPI, pneumoboots, bowel regimen, hep sc
   # ACCESS: PIV, CVL
   # CODE: DNR/DNI (confirmed with HCP), okay with pressors
   # CONTACT: Daughter in law [**Doctor First Name 1160**] [**Telephone/Fax (1) 10283**]
   # DISPO: ICU
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with family
   Code status: DNR/DNI
   Disposition: call out of ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2181-10-23**] 13:31 ------

2181-10-23 11:28:00 Physician Attending Progress Note
Chief Complaint: MRSA bacteremia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2181-10-22**] 02:00 PM
 ULTRASOUND - At [**2181-10-22**] 04:00 PM
   Left chest ultrasound to eval pacemaker.
 URINE CULTURE - At [**2181-10-22**] 06:35 PM
   Allergies:
   Ampicillin
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2181-10-23**] 06:03 AM
   Vancomycin - [**2181-10-23**] 08:26 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-10-22**] 05:39 PM
   Furosemide (Lasix) - [**2181-10-22**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-23**] 08:26 AM
   Other medications:
   famotidine, calcitriol, amidarone, HISS, vanco, albuterol, atrovent,
   colace, carvedilol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-23**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 75 (75 - 77) bpm
   BP: 161/51(82) {110/44(62) - 161/70(85)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   Wgt (current): 73.9 kg (admission): 75 kg
   Height: 65 Inch
   CVP: 8 (8 - 11)mmHg
   Total In:
                                                                  1,171 mL
                                                                    480 mL
   PO:
                                                                    720 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    451 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    860 mL
   Urine:
                                                                  2,695 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,524 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, lethargic today, confused to her husband
   [**Name (NI) 503**] / Radiology
   7.6 g/dL
   149 K/uL
   136 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   41 mg/dL
   106 mEq/L
   139 mEq/L
   24.3 %
   7.8 K/uL
        [image002.jpg]
                             [**2181-10-19**]  01:33 PM
                             [**2181-10-19**]  07:57 PM
                             [**2181-10-20**]  04:28 AM
                             [**2181-10-21**]  05:30 AM
                             [**2181-10-21**]  06:54 AM
                             [**2181-10-21**]  01:58 PM
                             [**2181-10-21**]  09:34 PM
                             [**2181-10-22**]  05:06 AM
                             [**2181-10-22**]  04:30 PM
                             [**2181-10-23**]  04:36 AM
   WBC
   13.0
   7.9
   7.9
   7.4
   7.8
   Hct
   27.2
   26.3
   26.2
   24.0
   24.2
   24.4
   24.3
   Plt
   159
   132
   133
   130
   149
   Cr
   2.7
   2.5
   2.0
   1.9
   1.9
   2.1
   2.0
   1.8
   1.7
   Glucose
   179
   149
   121
   141
   137
   195
   134
   193
   136
   Other [**Year (4 digits) **]: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.07, Differential-Neuts:96.6 %, Lymph:2.1 %, Mono:1.2
   %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR poor quality film, grossly stable.
   Microbiology: no new positive cultures
   Assessment and Plan
 Altered mental status: most consistent with ICU delirium, correlating
   with time of initiation of diuresis, will dtop agresive diruesis and
   resume home dose of lasix. Creatinine improving, and probably starting
   to redistribute fluid balance. continue to reorient/behavioral
   measures. Transfer to floor where she may be able to sleep better.
   Physicial therpay to ambulate for better sleep at night.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): on few liters with stable
   sats. at high risk for aspiration keep NPO. Treating HAp with cefepime.
 SEPSIS WITHOUT ORGAN DYSFUNCTION: with MRSA sepsis, TTE and pcked
   ultrasoudn negative, high risk for TEE, and may need to be intubated
   for this procedure will discuss with cardiology. continue vancomcycin
   for now. d/c CVL place PICC line
 URINARY TRACT INFECTION (UTI):
   E.coli on cefepime.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-10-19**] 05:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes